US06946461B2
c) 3-(5-Methylisoxazol-3-yl)imidazo[2, 1-a]phthalazin-6-one
4-Amino-1-phthalazinone (2.28 g, 14.2 mmol) [Angew. (1967) 6(2) 173-4] and 2-hydroxy-1-(5-methylisoxazol-3-yl)ethanone (2.0 g, 14.2 mmol) were suspended in toluene (100 ml) and trifluoroacetic acid (5 ml) was added. The suspension was heated at reflux under Dean & Stark conditions, for 24 hours. The solvent was then removed in vacuo and the residue was purified by chromatography on silica gel eluting with 10% methanol:dichloromethane, to provide the title product (1.62 g, 43%), 1H NMR (360 MHz, d6-DMSO) 2.50 (3H, s), 5.96 (2H, br s), 7.79-8.22 (4H, m) 11.48 (1H, s).

reactant | 4-Amino-1-phthalazinone | 14.2 mmol, 2.28 g | NC1=NNC(C2=CC=CC=C12)=O | C8H7N3O
reactant | 2-hydroxy-1-(5-methylisoxazol-3-yl)ethanone | 14.2 mmol, 2.0 g | OCC(=O)C1=NOC(=C1)C | C6H7NO3
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(5-Methylisoxazol-3-yl)imidazo[2, 1-a]phthalazin-6-one | 1.62 g, 43% | CC1=CC(=NO1)C1=CN=C2N1NC(C1=CC=CC=C21)=O | C14H10N4O2
